US08314147B2
Intermediate 17: Ethyl (4-amino-2,5-difluorophenyl)acetate
Sodium hydroxide (903 mg, 22.58 mmol) in water (7 ml) was added to a solution of diethyl (4-amino-2,5-difluorophenyl)propanedioate (4.32 g, 15.05 mmol) in ethanol (35 ml). The reaction mixture was heated to 90° C. under argon for 1 hr. The reaction mixture was allowed to cool and then the solvent was evaporated. The residue was acidified (2M HCl, 200 ml) and then extracted with ethyl acetate (200 ml). The organic layer was dried (Mg SO4) and the solvent evaporated. The residue was purified by flash chromatography (Biotage SP4, 40+M, 0→25% ethyl acetate/hexane) to afford the title compound as a pale yellow oil (1.3 g). MS (ES+) m/z 216 [M+H+] (C10H11FNO2).

reactant | Sodium hydroxide | 22.58 mmol, 903 mg | [OH-].[Na+]
reactant | diethyl (4-amino-2,5-difluorophenyl)propanedioate | 15.05 mmol, 4.32 g | NC1=CC(=C(C=C1F)C(C(=O)OCC)C(=O)OCC)F | C13H15F2NO4
solvent | water | 7 ml | O | H2O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | Ethyl (4-amino-2,5-difluorophenyl)acetate | 1.3 g | NC1=CC(=C(C=C1F)CC(=O)OCC)F | C10H11F2NO2
